US06515011B2
A solution of CAN (0.274 g, 0.50 mmol) in water (2.0 mL) was added to a stirred solution of 1-{(2R)-2-[(tert-butoxycarbonyl)amino]-2-cyclohexylglycyl}-N-(5-chloro-2-{3,3-difluoro-2-[(4-methoxyphenyl)amino]propyl}benzyl)-L-prolinamide (0.168 g, 0.25 mmol) in CH3CN (3.0 mL) at 0° C. and the resulting solution was warmed to ambient temperature. After 18 h the solution was partitioned between EtOAc(20 mL) and 10% aqueous NH4OH (10 mL). The resulting two phase suspension was filtered and the organic layer was washed with 10% sodium sulfite and brine, dried (Na2SO4) and evaporated in vacuo. The residue was purified by flash chromatography (eluting with 5% methylene chloride, 70% ethyl acetate/hexanes followed by ammonium hydroxide/methanol/chloroform, 1:9:90) to give N-[2-(2-amino-3,3-difluoropropyl)-5-chlorobenzyl]-1-{(2R)-2-[(tert-butoxycarbonyl)amino]2-cyclohexylethanoyl}-L-prolinamide (0.0801 g) as an oil; MS m/z=571.4.

reactant | CAN | 0.50 mmol, 0.274 g | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
reactant | 1-{(2R)-2-[(tert-butoxycarbonyl)amino]-2-cyclohexylglycyl}-N-(5-chloro-2-{3,3-difluoro-2-[(4-methoxyphenyl)amino]propyl}benzyl)-L-prolinamide | 0.25 mmol, 0.168 g | C(C)(C)(C)OC(=O)N[C@@](N)(C(=O)N1[C@H](C(=O)NCC2=C(C=CC(=C2)Cl)CC(C(F)F)NC2=CC=C(C=C2)OC)CCC1)C1CCCCC1 | C35H48ClF2N5O5
solvent | water | 2.0 mL | O | H2O
solvent | CH3CN | 3.0 mL | CC#N | C2H3N
product | N-[2-(2-amino-3,3-difluoropropyl)-5-chlorobenzyl]-1-{(2R)-2-[(tert-butoxycarbonyl)amino]2-cyclohexylethanoyl}-L-prolinamide | 0.0801 g | NC(CC1=C(CNC([C@H]2N(CCC2)C([C@@H](C2CCCCC2)NC(=O)OC(C)(C)C)=O)=O)C=C(C=C1)Cl)C(F)F | C28H41ClF2N4O4
